US07612067B2
Preparation of 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 76, 3-(4,5-dibromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.83 g, 3.72 mmol), 1.6 M n-BuLi (2.56 mL, 4.09 mmol), and THF (30 mL) furnish the title compound (1.05 g, 2.54 mmol, 68%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.73-1.92 (m, 4H), 2.48 (s, 3H), 2.51 (s, 3H), 3.27-3.36 (m, 1H), 6.71 (s, 1H), 7.55 (s, 1H). LC/MS (m/z): calcd. for C17H19BrClN3S (M+H)+: 412.0; found: 412.1.

reactant | 3-(4,5-dibromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 3.72 mmol, 1.83 g | BrC=1C(=C(SC1Br)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H18Br2ClN3S
reactant | n-BuLi | 4.09 mmol, 1.6 M, 2.56 mL | [Li]CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.54 mmol, 1.05 g, 68% | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
